US04354973
8-Chloro-6-(2-chlorophenyl)-4-methoxy-2H,4H-pyrrolo[3,4-d][2]benzazepine
A mixture of 1.0 g (2.2 mmol) of 4-(acetyloxy)-8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-carboxylic acid methyl ester and 2.5 ml of 3 N aqueous sodium hydroxide solution in a mixture of 25 ml of tetrahydrofuran and 10 ml of methanol was stirred at 0° for 30 min. The mixture was diluted with water and extracted with methylene chloride. The methylene chloride solution was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. The residue was triturated with a mixture of ether and methylene chloride to give a cream colored solid, mp 215°-218°. Recrystallization from a mixture of tetrahydrofuran and hexane gave tan prisms, mp 221°-224°.

reactant | 4-(acetyloxy)-8-chloro-6-(2-chlorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine-2-carboxylic acid methyl ester | 2.2 mmol, 1.0 g | COC(=O)N1C=C2C(N=C(C3=C(C2=C1)C=CC(=C3)Cl)C3=C(C=CC=C3)Cl)OC(C)=O | C22H16Cl2N2O4
reactant | sodium hydroxide | 3 N, 2.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
product | 8-Chloro-6-(2-chlorophenyl)-4-methoxy-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(C(N=C2C2=C(C=CC=C2)Cl)OC)=CNC3)C=C1 | C19H14Cl2N2O
